US06956034B2
1.1 Methyl 2-cyanato-5-chlorobenzoate
At −20° C., 20.0 g (0.198 mol) of triethylamine were added with stirring to 21.0 g (0.198 mol) of cyanogen bromide in 200 ml of acetone. After 5 min, 36.9 g (0.198 mol) of methyl 5-chloro-2-hydroxybenzoate were added, and the mixture was stirred at −20° C. for 30 min. The mixture was filtered, the filter was washed with 200 ml of acetone and the combined organic phases were concentrated under reduced pressure. This gave 34.4 g of the title compound as a yellow solid which was directly reacted further.

reactant | triethylamine | 0.198 mol, 20.0 g | C(C)N(CC)CC | C6H15N
reactant | cyanogen bromide | 0.198 mol, 21.0 g | N#CBr | CBrN
reactant | methyl 5-chloro-2-hydroxybenzoate | 0.198 mol, 36.9 g | ClC=1C=CC(=C(C(=O)OC)C1)O | C8H7ClO3
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | Methyl 2-cyanato-5-chlorobenzoate | O(C#N)C1=C(C(=O)OC)C=C(C=C1)Cl | C9H6ClNO3
